US05936075
Synthesis of Galβ1-4(Fucα1-3)GlcNH2 βSEt. Galβ1-4GlcNH2 βSEt is prepared as described above and used directly or after isolation as acceptor for a α1-3-fucosyltransferase (e.g. EC 2.4.1.152 or 65) reaction with a suitable glycosyl donor such as GDP-Fuc.

reactant | Galβ1-4(Fucα1-3)GlcNH2 | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@H]1[C@@H]([C@H](C(O)O[C@@H]1CO)N)O[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C18H33NO14
reactant | GDP-Fuc | CC1C(C(C(C(O1)OP(=O)(O)OP(=O)(O)OCC2C(C(C(O2)N3C=NC4=C3NC(=NC4=O)N)O)O)O)O)O | C16H25N5O15P2
product | Galβ1-4GlcNH2 | O([C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)[C@H]1[C@@H]([C@H](C(O)O[C@@H]1CO)N)O | C12H23NO10
